US07550480B2
1,5-bis(2-chlorophenyl)-7-{[2-(isopropylamino)ethyl]amino}[1,8]naphthyridin-2(1H)-one formate
7-chloro-1,5-bis(2-chlorophenyl)[1,8]naphthyridin-2(1H)-one (73 mg, 0.182 mmol) and N-isopropylethylenediamine (0.14 ml, 1.122 mmol) were dissolved in N-methylpyrrolidinone (2 ml) and heated in a Smith Creator microwave at 220° for 30 min. The solution was passed down an SCX-2 cartridge (10 g) and eluted with methanol, followed by 2M ammonia in methanol. The latter eluate was evaporated in vacuo and the residue purified by mass directed autoprep HPLC (per General procedure B) to afford the title compound as a clear gum (24 mg, 26%)

reactant | 7-chloro-1,5-bis(2-chlorophenyl)[1,8]naphthyridin-2(1H)-one | 0.182 mmol, 73 mg | ClC1=CC(=C2C=CC(N(C2=N1)C1=C(C=CC=C1)Cl)=O)C1=C(C=CC=C1)Cl | C20H11Cl3N2O
reactant | N-isopropylethylenediamine | 1.122 mmol, 0.14 ml | C(C)(C)NCCN | C5H14N2
reactant | N-methylpyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 1,5-bis(2-chlorophenyl)-7-{[2-(isopropylamino)ethyl]amino}[1,8]naphthyridin-2(1H)-one formate | 24 mg, 26% | C(=O)O.ClC1=C(C=CC=C1)N1C(C=CC2=C(C=C(N=C12)NCCNC(C)C)C1=C(C=CC=C1)Cl)=O | InChI=1S/C25H24Cl2N4O.CH2O2/c1-16(2)28-13-14-29-23-15-19(17-7-3-4-8-20(17)26)18-11-12-24(32)31(25(18)30-23)22-10-6-5-9-21(22)27;2-1-3/h3-12,15-16,28H,13-14H2,1-2H3,(H,29,30);1H,(H,2,3)
